US04859229
A solution of 17.0 g of N-[2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenoxy}-ethyl]propionamide in 100 ml of ethanol is heated at reflux temperature for 5 hours with a solution of 75 ml of concentrated hydrochloric acid in 75 ml of water. The ethanol is subsequently distilled off at 50° C. and the clear aqueous solution is neutralized with sodium bicarbonate. The oily precipitate is dissolved in ethyl acetate and the solution is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The resinous residue is dissolved in 200 ml of 2N hydrochloric acid at 50° C., the mixture is extracted with a small amount of ethyl acetate and the aqueous phase is evaporated under reduced pressure until crystallization occurs. 50 ml of diethyl ether are subsequently added and the mixture is stirred. The crystals are filtered off under suction, washed with diethyl ether and dried at 50° C. in a vacuum. There is obtained 3-[5-(2-aminoethoxy)-4-chloro-2-fluorophenyl]-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 217°-227° C. (decomposition).

reactant | N-[2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorophenoxy}-ethyl]propionamide | 17.0 g | ClC1=C(OCCNC(CC)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H16ClF4N3O4
reactant | hydrochloric acid | 75 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | 3-[5-(2-aminoethoxy)-4-chloro-2-fluorophenyl]-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.NCCOC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | InChI=1S/C14H12ClF4N3O3.ClH/c1-21-11(14(17,18)19)6-12(23)22(13(21)24)9-5-10(25-3-2-20)7(15)4-8(9)16;/h4-6H,2-3,20H2,1H3;1H
